US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[(1S)-2-(t-butyldiphenylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}azetidine (2.77 g, 3.77 mmol) (obtained as described in Reference Example 35(2)) in anhydrous tetrahydrofuran (140 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (9.06 ml, 9.06 mmol) in an ice bath. The mixture was stirred in the ice bath for 3.5 hours. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→ethyl acetate:methanol (9:1) as the eluant to afford 3-hydroxy-1-[4-((1S)-2-hydroxy-1-methylethylcarbamoyl)-1,3-thiazol-2-yl]azetidine (911 mg, yield 94%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[(1S)-2-(t-butyldiphenylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 3.77 mmol, 2.77 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N[C@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C)=O | C42H51N3O3SSi2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.06 mmol, 9.06 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-[4-((1S)-2-hydroxy-1-methylethylcarbamoyl)-1,3-thiazol-2-yl]azetidine | 911 mg, yield 94% | OC1CN(C1)C=1SC=C(N1)C(N[C@H](CO)C)=O | C10H15N3O3S
